US05028604
Into a 4 ml of tetrahydrofuran were dissolved 0.82 g of 1-(2-indanylacetyl)-L-proline and 0.35 g of N-hydroxysuccinimide. To the solution was dropwise added a solution of 0.74 g of DCC in 2 ml of tetrahydrofuran at room temperature with stirring. After stirring for a further 17 hours at the same temperature, insoluble components were removed by filtration. From the filtrate the solvent was evaporated under reduced pressure. The oily residue thus obtained was washed with n-hexane, dissolved in 5 ml of benzene, and treated with activated carbon. Benzene was evaporated under reduced pressure to produce 0.72 g of 1-(2-indanylacetyl)-L-prolyloxysuccinimide as coloress amorphous solid.

reactant | 1-(2-indanylacetyl)-L-proline | 0.82 g | C1(CCC2=CC=CC=C12)CC(=O)N1[C@H](C(=O)O)CCC1 | C16H19NO3
reactant | N-hydroxysuccinimide | 0.35 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 0.74 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-(2-indanylacetyl)-L-prolyloxysuccinimide | 0.72 g | C1(CCC2=CC=CC=C12)CC(=O)N1[C@H](C(=O)OC2C(=O)NC(C2)=O)CCC1 | C20H22N2O5
